US04263037
(e) 5-Bromo-2,3-dihydro-3,3-dimethyl-2-hydroxybenzofuran (II)
2-(2-Methoxy-5-bromophenyl)-2-methyl-1-propanal (30 g, 0.115 mole) was added to molten pyridine hydrochloride (60 g) and the mixture heated with stirring at 190°-200° C. for 50 minutes. Addition to ice-water containing a little hydrochloric acid and isolated through ether gave, after recrystallisation from petroleum ether (b.p. 80°-100° C.) 11.7 g (42%) title product m.p. 114°-5° C.

reactant | 2-(2-Methoxy-5-bromophenyl)-2-methyl-1-propanal | 0.115 mole, 30 g | COC1=C(C=C(C=C1)Br)C(C=O)(C)C | C11H13BrO2
reactant | pyridine hydrochloride | 60 g | Cl.N1=CC=CC=C1
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 5-Bromo-2,3-dihydro-3,3-dimethyl-2-hydroxybenzofuran | BrC=1C=CC2=C(C(C(O2)O)(C)C)C1 | C10H11BrO2
